US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 2,4-difluoro-3-(pyridin-4-yl)benzeneboronic acid (66 mg, 0.28 mmol) as described in Example 7 part g), affording 5-(2,4-difluoro-3-pyridin-4-ylphenyl)-2-trifluoromethyl-[1,8]naphthyridine (30 mg, 36%). δH (360 MHz, CDCl3) 7.29 (1H, m), 7.41-7.50 (3H, m), 7.62 (1H, d, J 4.6), 7.85 (1H, d, J 8.8), 8.33 (1H, dd, J 2.3 and 8.6), 8.75-8.77 (2H, m), 9.34 (1H, d, J 4.6). m/z (ES+) 388 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 2,4-difluoro-3-(pyridin-4-yl)benzeneboronic acid | 0.28 mmol, 66 mg | FC1=C(C=CC(=C1C1=CC=NC=C1)F)B(O)O | C11H8BF2NO2
product | 5-(2,4-difluoro-3-pyridin-4-ylphenyl)-2-trifluoromethyl-[1,8]naphthyridine | 30 mg, 36% | FC1=C(C=CC(=C1C1=CC=NC=C1)F)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C20H10F5N3
